US05686424
Using the procedure described in Example 5, treatment of L-proline-L-isoleucine benzylamide (125 mg, 0.39 mmol), with triethylamine (275 uL, 1,97 mmol, 5 eq), and 2-bromo-3'-methoxyacetophenone (107 mg, 0.47 mmol, 1.2 eq) in THF (20 mL), provided 149.2 mg (81%) of L-isoleucine, N-[1-(2-(3-methoxyphenyl)-2-oxoethyl)-L-prolyl] benzylamide as a pale yellow oil.

reactant | L-proline L-isoleucine benzylamide | 0.39 mmol, 125 mg | N1[C@H](C(=O)O)CCC1.C(C1=CC=CC=C1)NC([C@@H](N)[C@@H](C)CC)=O
reactant | triethylamine | 1,97 mmol, 275 uL, 5 eq | C(C)N(CC)CC | C6H15N
reactant | 2-bromo-3'-methoxyacetophenone | 0.47 mmol, 107 mg, 1.2 eq | BrCC(=O)C1=CC(=CC=C1)OC | C9H9BrO2
solvent | THF | 20 mL | C1CCOC1 | C4H8O
product | L-isoleucine, N-[1-(2-(3-methoxyphenyl)-2-oxoethyl)-L-prolyl] benzylamide | 149.2 mg, 81% | COC=1C=C(C=CC1)C(CN1[C@H](C(=O)N(C([C@@H](N)[C@@H](C)CC)=O)CC2=CC=CC=C2)CCC1)=O | C27H35N3O4
